US06747169B2
4-1: Synthesis of 1,4-di(3,3,4,4,5,5,6,6,6-nonafluorohexyl) 2-(3-(N,N-dimethylamino)propylamino)succinate
In an amount of 30.0 g (49 mmol) of 1,4-di(3,3,4,4,5,5,6,6,6-nonafluorohexyl) maleate, 6.8 mL (54 mmol) of N,N-dimethylaminopropylamine and 7.5 g (54 mmol) of potassium carbonate were dissolved in 120 mL of acetonitrile and refluxed for 6 hours with heating. Then, the reaction mixture was transferred to a separatory funnel and added with 1000 mL of ethyl acetate. The organic phase was washed with a saturated aqueous sodium hydrogencarbonate solution. Then, the organic layer was collected, and the organic solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=100:3 (volume ratio)) to obtain 2.64 g (yield: 75%) of the target compound as a brown oily compound.

reactant | 1,4-di(3,3,4,4,5,5,6,6,6-nonafluorohexyl) maleate | 49 mmol, 30.0 g | C(\C=C/C(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C16H10F18O4
reactant | N,N-dimethylaminopropylamine | 54 mmol, 6.8 mL | CNN(NC)CCC | C5H15N3
reactant | potassium carbonate | 54 mmol, 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 1,4-di(3,3,4,4,5,5,6,6,6-nonafluorohexyl) 2-(3-(N,N-dimethylamino)propylamino)succinate | 2.64 g, yield: 75% | CN(C)CCCNC(C(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)CC(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C21H24F18N2O4
